US08304546B2
O-iodoxybenzoic acid (IBX, 1.9 g, 6.78 mmol) was added to a dimethyl sulfoxide (DMSO) solution (3 ml) of 5-fluoro-1-[2-(3-hydroxypropane-1-sulfonyl)ethyl]-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (2.7 g, 5.65 mmol) and stirred overnight at room temperature. Water and ethyl acetate were added to the reaction mixture. Subsequently, insoluble matter was filtered off, and the filtrate was then separated. The thus-obtained organic layer was washed with water and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (n-hexane:ethyl acetate=2:1→0:1). The purified material was concentrated to dryness under reduced pressure, giving a white powder of 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethanesulfonyl}propionaldehyde (1.8 g, yield: 67%).

reactant | O-iodoxybenzoic acid | 6.78 mmol, 1.9 g | I(=O)(=O)OC(C1=CC=CC=C1)=O | C7H5IO4
reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | 5-fluoro-1-[2-(3-hydroxypropane-1-sulfonyl)ethyl]-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 5.65 mmol, 2.7 g | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCS(=O)(=O)CCCO)C1=CC=C(C=C1)OC)=O | C24H28FNO6S
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethanesulfonyl}propionaldehyde | 1.8 g, yield: 67% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCS(=O)(=O)CCC=O)C1=CC=C(C=C1)OC)=O | C24H26FNO6S
